Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right Lower extremity pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr ___ is a ___ year old man with no significant PMHx 
who presented to ___ for evaluation of right ___ swelling and 
pain. The patient reports that he was in his usual state of 
health until ___ when he reports that he squatted down and 
felt a pop in his right knee/thigh area. He had minimal pain but 
presented to ___ and was evaluated. He was admitted 
after he was found to have an unprovoked DVT of the common 
femoral, superficial femoral, and popliteal veins. He was 
initially placed on lovenox to Coumadin but was changed to 
rivaroxiban. He was discharged on ___. Following discharge he 
was having fevers to 100-101. He had continued swelling of the 
lower extremity. He reports that saw his PCP and they were 
concerned about infection and he had a U/A that was 
unremarkable, CT of the chest/abdomen and pelvis. This showed 
extension of the clot and showed distal IVC occlusion with DVT 
extending into the iliac vessels. He was refered to ___ 
and ___ transferred to ___ for vascular surgery evaluation. 
Vascular surgery felt there was no need for surgical 
intervention. THey recommended heparin to Coumadin and checking 
a Xa level. 

On admission to the floor the patient denies any recent travel, 
prior malignancy, or known family history. He reports that he 
works at a desk but tries to get up every hour or so to move 
about. He is active and swims regularly. 
 
Past Medical History:
Hemorrhoids 
DVT on rivaroxaban

 
Social History:
___
Family History:
Father  ___ Cancer - Colon (___) 
He denies any family history of clotting disorders or clots. 
 
Physical Exam:
Physical Exam:
Vitals: 97.9, 142/66, 87, 18, 100%RA
Gen: NAD, lying in bed, ___
Eyes: EOMI, sclerae anicteric
ENT: MMM, OP clear
CV: RRR, no murmur
PULM: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+
GU: NO foley
EXT: Significant swelling of the right lower extremity from the 
foot to the groin with mild erythema. DP pulses palpable 
bilaterally. 
Skin: No visible rash. No jaundice.
Neuro: AAOx3. Fluent speech, no facial droop.
Psych: Full range of affect

Discharge Exam:
97.9 131/61 80 18 100%RA
NAD, pleasant
RRR no mrg
CTAB
sntnd
wwp, RLE swollen from foot to groin. DPP bilaterally, sensation 
intact.
A&O grossly, fluent, MAEE

 
Pertinent Results:
From ___:

BASIC METABOLIC PANEL 

___ ___ 1231:___ Na:134 K: 4.3  Cl:93  Bicarb:28  
Glu:112 BUN:10  Cr:0.8  Ca: 9.0

HEPATIC FUNCTION PANEL 
Alb: 3.5  Tp:6.6  TBili: 0.7  Dbili: 0.4 AlkPhos:275 ALT:98 
AST:50  

TROPONIN T 
< 0.01  

proB-TYPE NATRIURETIC PEPTIDE 
72  

HEMOGRAM/PLT/DIFF 
WBC: 7.7  HGB:11.3 HCT: 33.8 Plt: 388 

INRT
1.64  

PTT
33.6  

IMAGING: CT ABD/Pelvis:
IMPRESSION:
1. Extensive right-sided DVT expanding the right common femoral, 
external iliac and common iliac veins, extending into the IVC. 
Diffuse inflammation extending into the right groin in 
association with the acute DVT. DVT in the left common iliac 
vein extending to the bifurcation.

2. The infrahepatic portion of the IVC appears to be markedly 
attenuated and may be interrupted with the azygous/hemiazygos 
continuation, manifested by enlargement of these ___s multiple collaterals in the chest as well as upper 
abdomen. This should be confirmed with dedicated vascular study.

3. No evidence of pulmonary emboli.

4. No adenopathy in the chest, abdomen or pelvis.

___ 07:17AM BLOOD WBC-6.6 RBC-3.61* Hgb-10.2* Hct-31.2* 
MCV-86 MCH-28.3 MCHC-32.7 RDW-12.1 RDWSD-38.3 Plt ___
___ 06:40AM BLOOD ___ PTT-99.0* ___
___ 06:45AM BLOOD ___ PTT-79.6* ___
___ 09:30AM BLOOD UreaN-11 Creat-0.7
___ 07:17AM BLOOD ALT-65* AST-33 AlkPhos-261* TotBili-0.5
___ 06:45AM BLOOD calTIBC-226* Hapto-324* Ferritn-774* 
TRF-174*
 
Brief Hospital Course:
___ year old man with no significant PMHx who presented to ___ 
for evaluation of right ___ swelling and pain.

# Extensive Right Lower Extremity DVT: Patient has extensive 
unprovoked DVT. He had what appears to be worsening on 
rivaroxiban. Seen by vascular surgery who recommended heparin 
gtt to Coumadin. He had a colonoscopy in ___ that was notable 
only for tubular adenoma. He is a non-smoker and CT torso 
unremarkable in the atrius system.  TSH was checked and was wnl. 
  He was maintained on a heparin gtt with therapeutic PTTs until 
INR >=2 on Coumadin for approximately 48 hours.  His leg was 
wrapped and elevated and he had gradual improvement in the 
proximal right leg pain that initially brought him in.  He will 
need a pro-thrombotic work-up as an outpatient and will follow 
up with hematology and vascular surgery.

# Fevers, night sweats, back pain: patient reports fevers to 
100-101 at home. Afebrile while in the hospital. Infectious work 
up at ___ with U/A per patient report that was unremarkable. 
WBC not elevated without localizing signs. He seems UTD on 
routine cancer screening. Vascular thought there was congenital 
anomaly that promoted thrombosis. However, given the low grade 
temps and night sweats with back pain that could've suggested a 
malignant process, MRI of spine was performed to ensure no 
malignancy nor infection. Given negative MRI and UTD cancer 
screening (also negative abdominal imaging) these symptoms were 
probably related to the thrombosis itself. They improved over 
time with continuous anticoagulation. Would suggest further 
workup if these persist.

# Mild Transaminitis: Mild ALT elevation and alk phos elevation. 
On recheck on ___, these were both slightly improved, but 
remained mildly elevated. Recommend recheck at next visit and 
further workup as indicated. 

# Anemia: The patient presented with a mild normocytic anemia. 
Unclear what his baseline is. No evidence of bleeding.  
Hemolysis labs were negative.  Iron studies were suggestive of 
anemia of chronic disease.

>30 minutes spent on discharge related activities on day of 
discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 15 mg PO BID 
2. Acetaminophen w/Codeine 1 TAB PO Q6H:PRN pain 
3. Fish Oil (Omega 3) 1000 mg PO BID 
4. Vitamin D 1000 UNIT PO DAILY 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Vitamin D 1000 UNIT PO DAILY 
2. Warfarin 7.5 mg PO DAILY16 
RX *warfarin [Coumadin] 7.5 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
3. Fish Oil (Omega 3) 1000 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right lower extremity DVT
Anemia - normocytic

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for an extensive blood clot in 
the deep veins of your right leg which did not respond to 
initial treatment with Rivaroxaban.  You were treated with 
anticoagulant medications including intravenous heparin and oral 
warfarin.  You are being discharged on warfarin (Coumadin) to 
continue anticoagulation.  While on this medication, you will 
need to have your INR checked periodically and your dose of 
warfarin adjusted to achieve a goal INR of ___. 
 
Followup Instructions:
___